US07521457B2
d) 2-[2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-ethanol
1.45 g (5.23 mmol) [2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-acetic acid are dissolved in 36 ml THF and cooled to 0° C. and combined with 10 ml (18 mmol) borane-THF complex (1.8 mol/V). After 1 h the mixture is heated to 20° C. and stirred for 16 h. Water is added until the development of gas has ended. Then the mixture is extracted twice with saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic phases are combined, dried and freed from the solvent in vacuo.

reactant | [2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-acetic acid | 5.23 mmol, 1.45 g | COC=1C=C(C=CC1[N+](=O)[O-])C=1NC=C(N1)CC(=O)O | C12H11N3O5
reactant | Water | O | H2O
solvent | THF | 36 ml | C1CCOC1 | C4H8O
product | 2-[2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-ethanol | COC=1C=C(C=CC1[N+](=O)[O-])C=1NC=C(N1)CCO | C12H13N3O4
